US07465731B2
A mixture of (2E)-3-(5-chloro-6-{[(3R)-1-(cyclohexylmethyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylic acid (306 mg), O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (108 mg) HOBt (119 mg) and EDCI (137 mg) in DMF (15 ml) was stirred at ambient temperature for 15 hours. The reaction mixture was poured into a mixture of AcOEt-H2O and the organic layer was washed with brine and dried over MgSO4. The solvent was evaporated in vacuo and the residue was chromatographed on silicagel eluting with AcOEt-MeOH (9:1). The eluted fractions containing the desired product were collected and evaporated in vacuo to give (2E)-3-(5-chloro-6-{[(3R)-1-(cyclohexylmethyl)-3-pyrrolidinyl]amino}-3-pyridinyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (100 mg).

reactant | (2E)-3-(5-chloro-6-{[(3R)-1-(cyclohexylmethyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylic acid | 306 mg | ClC=1C=C(C=NC1N[C@H]1CN(CC1)CC1CCCCC1)/C=C/C(=O)O | C19H26ClN3O2
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 108 mg | O1C(CCCC1)ON | C5H11NO2
reactant | EDCI | 137 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | AcOEt-H2O | C(=O)(C)OCC.O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | (2E)-3-(5-chloro-6-{[(3R)-1-(cyclohexylmethyl)-3-pyrrolidinyl]amino}-3-pyridinyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 100 mg | ClC=1C=C(C=NC1N[C@H]1CN(CC1)CC1CCCCC1)/C=C/C(=O)NOC1OCCCC1 | C24H35ClN4O3
